US09024041B2
Intermediate A32: 3-(1-Methylcyclohexyl)-1-p-tolyl-1H-pyrazol-5-amine
To a mixture of acetonitrile (500 μL, 10.0 mmol) in THF (30 mL) at RT was added a solution of potassium 2-methylbutan-2-olate in THF (1.7 M, 16.9 mL, 28.7 mmol), followed by methyl 1-methylcyclohexanecarboxylate (2.24 g, 14.4 mmol) and the reaction mixture maintained at RT for 17 hr and then concentrated to ˜20 mL in vacuo. The residue was diluted with EtOH (20 mL), treated with p-tolylhydrazine hydrochloride (1.52 g, 9.57 mmol) and the resulting mixture acidified to pH1 by the addition of conc hydrochloric acid and then heated to 70° C. for 5 hr. The mixture was cooled to RT for 16 hr and concentrated to ˜20 mL in vacuo, diluted with water (30 mL) and was then basified to pH 12 by the addition of 2M aq NaOH. The resulting solution was extracted with EtOAc (2×20 mL) and the combined organic extracts were washed with brine (30 mL) and then dried and evaporated in vacuo. The residue was purified by flash column chromatography (SiO2, EtOAc in isohexane, 0-20%, gradient elution) to afford the title compound, Intermediate A33, as a yellow oil, (˜50% purity, containing 3-(1-methylcyclohexyl)-3-oxopropanenitrile) (1.30 g, 25%); Rt 1.97 min (Method 2); m/z 270 (M+H)+ (ES+). The material was used in subsequent reactions without further purification.

reactant | acetonitrile | 10.0 mmol, 500 μL | C(C)#N | C2H3N
reactant | potassium 2-methylbutan-2-olate | CC(C)(CC)[O-].[K+]
reactant | methyl 1-methylcyclohexanecarboxylate | 14.4 mmol, 2.24 g | CC1(CCCCC1)C(=O)OC | C9H16O2
reactant | p-tolylhydrazine hydrochloride | 9.57 mmol, 1.52 g | Cl.C1(=CC=C(C=C1)NN)C
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 28.7 mmol, 1.7 M, 16.9 mL | C1CCOC1 | C4H8O
product | 3-(1-Methylcyclohexyl)-1-p-tolyl-1H-pyrazol-5-amine | CC1(CCCCC1)C1=NN(C(=C1)N)C1=CC=C(C=C1)C | C17H23N3
